US05859007
2-[3-(1H-Indazol-3-ylmethyl)-2,4-dioxo-5-thiophen-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
To 590 mg (0.80 mmol) of crude 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-thiophen-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide, prepared as in Intermediate 59, is added 10 mL of 4N HCl in dioxane at RT. The resulting solution is stirred 4 h and 100 mL of Et2O is added. The precipitate is filtered and purified by RP-HPLC (30-60% acetonitrile/ H2O over 30 min) to afford 71 mg of the title compound: 1H NMR (DMSO-d6, 300 MHz) δ7.78 (d, 1H, J=8.1), 7.59-7.24 (m, 9H), 7.06 (m, 9H), 4.75 (m, 1H), 4.47 (d, 1H, J=17.1), 4.15 (m, 3H), 3.82 (s, 3H), 3.44 (m, 2H), 0.98 (d, 3H, J=6.9), 0.94 (d, 3H, J=6.9); low resolution MS (FAB) m/e 594 (MH+); RP-HPLC Tr =16.2 min (30-60% acetonitrile/ H2O).

reactant | 2-[3-(1-tert-butoxycarbonyl-1H-indazol-3-ylmethyl)-2,4-dioxo-5-thiophen-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 0.80 mmol, 590 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CSC=C2)=O | C38H39N5O6S
reactant | HCl | 4N, 10 mL | Cl | ClH
reactant | Et2O | 100 mL | CCOCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[3-(1H-Indazol-3-ylmethyl)-2,4-dioxo-5-thiophen-3-yl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 71 mg | N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CSC=C2)=O | C33H31N5O4S
